US08084623B2
Zinc powder (130 mg, 2.00 mmol) was added to a solution of 3-benzyl-3-(3,3-dibromo-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (115 mg, 0.20 mmol) in acetic acid (4 mL). The reaction mixture was stirred vigorously at room temperature for 1 hour. Solids were removed by filtration, and the filtrate was concentrate under reduced pressure to give 3-benzyl-3-(2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a foam. The same procedure was repeated using the 3-benzyl-3-(3-bromo-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester to provide additional 3-benzyl-3-(2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | 3-benzyl-3-(3,3-dibromo-2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.20 mmol, 115 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(C(=O)C=1C=C2C(C(NC2=CC1)=O)(Br)Br)CC1=CC=CC=C1 | C25H26Br2N2O4
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
catalyst | Zinc | 2.00 mmol, 130 mg | [Zn] | Zn
product | 3-benzyl-3-(2-oxo-2,3-dihydro-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)(C(=O)C=1C=C2CC(NC2=CC1)=O)CC1=CC=CC=C1 | C25H28N2O4
